US06660744B1
Sodium borohydride (19 mg, 0.491 mmol) was added to a solution of 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]benzaldehyde (100 mg, 0.245 mmol) in methanol (2 mL). After 16 hours, THF (1 mL) and more sodium borohydride (19 mg, 0.491 mmol) was added. 5 hours later, the solvent was removed and water was added. The aqueous layer was extracted with dichloromathane. The combined organic layer was washed with brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using ethyl acetate/dichloromethane (80:20 to 100:0) as mobile phase to give {4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]phenyl}methanol (36 mg, 36%). 1H NMR (DMSO-d6) δ 4.56 (s, 2H), 5.27 (bs, 1H), 7.16 (m, 5H), 7.47 (m, 4H), 7.76 (d, J=8.64 Hz, 2H), 8.18 (d, J=8.52, 2H), 8.37 (s, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 0.8 mL/min.): MH+ =410.1, Rt=2.43 min.

reactant | Sodium borohydride | 0.491 mmol, 19 mg | [BH4-].[Na+]
reactant | 4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]benzaldehyde | 0.245 mmol, 100 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2=CC=C(C=O)C=C2 | C24H17N5O2
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | sodium borohydride | 0.491 mmol, 19 mg | [BH4-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | {4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]phenyl}methanol | 36 mg, 36% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2=CC=C(C=C2)CO | C24H19N5O2
